US05155113
Preparation of 5-chloro-4-phenylacetyloxy-2-pyridone
A 3.63 ml quantity of phenylacetyl chloride was added to a suspension of 2.00 g of 5-chloro-4-hydroxy-2-pyridone in 60 ml of pyridine. The same subsequent procedure as in Example 39 was conducted, thereby producing 500 mg of the title compound in a yield of 14%.

reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-4-phenylacetyloxy-2-pyridone | 500 mg, yield of 14% | ClC=1C(=CC(NC1)=O)OC(CC1=CC=CC=C1)=O | C13H10ClNO3
